US07846960B2
6-(4-Hydroxy-2-methyl-phenyl)-benzo[b]thiophene-3-carboxylic Acid Methyl Ester; Compound with 6-(4-hydroxy-2-methyl-phenyl)-benzo[b]thiophene-2-carboxylic Acid Methyl Ester
The title compound is prepared essentially according to the preparation of 6-(4-hydroxy-2-methyl-phenyl)-1-methyl-1H-indole-3-carboxylic acid methyl ester, utilizing a 7:3 mixture of 6-bromo-benzo[b]thiophene-3-carboxylic acid methyl ester and 6-bromo-benzo[b]thiophene-2-carboxylic acid methyl ester. ES/MS m/e 297.0 (M−1).

reactant | 6-(4-hydroxy-2-methyl-phenyl)-1-methyl-1H-indole-3-carboxylic acid methyl ester | COC(=O)C1=CN(C2=CC(=CC=C12)C1=C(C=C(C=C1)O)C)C | C18H17NO3
reactant | 6-bromo-benzo[b]thiophene-3-carboxylic acid methyl ester | COC(=O)C=1C2=C(SC1)C=C(C=C2)Br | C10H7BrO2S
reactant | 6-bromo-benzo[b]thiophene-2-carboxylic acid methyl ester | COC(=O)C1=CC2=C(S1)C=C(C=C2)Br | C10H7BrO2S
product | 6-(4-Hydroxy-2-methyl-phenyl)-benzo[b]thiophene-3-carboxylic Acid Methyl Ester; Compound with 6-(4-hydroxy-2-methyl-phenyl)-benzo[b]thiophene-2-carboxylic Acid Methyl Ester | COC(=O)C1=CC2=C(S1)C=C(C=C2)C2=C(C=C(C=C2)O)C.COC(=O)C=2C1=C(SC2)C=C(C=C1)C1=C(C=C(C=C1)O)C | 2C17H14O3S
